US06468996B1
3-(4-(2-(2-Chloro-5-oxo-phenothiazin-10-yl)-ethoxy)-phenyl)-2-ethoxy-propionic acid.
A solution of 3-(4-(2-(2-chloro-phenothiazin-10-yl)-ethoxy)-phenyl)-2-ethoxy-propionic acid (122 mg; 0.26 mmol) in ethanol (1 ml) was stirred at 60° C. and hydrogen peroxide (30%; 0.15 ml) was added. The reaction mixture was stirred for 30 min. and allowed to go to room temperature. The reaction mixture was evaporated and residue dissolved in water (5 ml). The aqueous phase was acidified with 1N HCl to pH 2 and extracted with methylene chloride (2×25 ml). The combined extracts were dried and evaporated. After column chromatography using ethyl acetate:methanol (4:1) as eluent the title compound was isolated in 116 mg (92%) yield. 1H NMR (CDCl3) δ1.10 (t, 3H), 2.80-3.04 (m, 2H), 3.24-3.38 (m, 1H), 3.45-3.60 (m, 1H), 3.93 (m, 1H), 4.38 (t, 2H), 4.58 (t, 2H), 6.82 (d, 2H), 7.10-8.0 (m, 9H), 8.0-8.7 (br. s, 1H). Compound 7.

reactant | 3-(4-(2-(2-chloro-phenothiazin-10-yl)-ethoxy)-phenyl)-2-ethoxy-propionic acid | 0.26 mmol, 122 mg | ClC1=CC=2N(C3=CC=CC=C3SC2C=C1)CCOC1=CC=C(C=C1)CC(C(=O)O)OCC | C25H24ClNO4S
reactant | hydrogen peroxide | 0.15 ml | OO | H2O2
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 3-(4-(2-(2-Chloro-5-oxo-phenothiazin-10-yl)-ethoxy)-phenyl)-2-ethoxy-propionic acid | ClC1=CC=2N(C3=CC=CC=C3S(C2C=C1)=O)CCOC1=CC=C(C=C1)CC(C(=O)O)OCC | C25H24ClNO5S
